US08633189B2
A flask charged with 10% Pd/C (16 mg) was evacuated and placed under a N2 atmosphere. To this was added 2-cyclopentyl-4-methyl-5-nitro-phenol (160 mg, 0.72 mmol) as a solution in methanol (3 mL). The reaction mixture was stirred under H2 atmosphere for 4 h, then filtered and concentrated in vacuo to provide 5-amino-2-cyclopentyl-4-methylphenol a light tan solid (130 mg, 94% yield). 1H NMR (400.0 MHz, DMSO-d6) δ 8.47 (s, 1H), 6.60 (s, 1H), 6.08 (s, 1H), 4.44 (s, 2H), 3.02 (dd, J=2.4, 17.2 Hz, 1H), 1.91 (s, 3H), 1.84-1.77 (m, 2H), 1.71-1.66 (m, 2H), 1.58-1.54 (m, 2H), 1.44-1.39 (m, 2H).

reactant | 2-cyclopentyl-4-methyl-5-nitro-phenol | 0.72 mmol, 160 mg | C1(CCCC1)C1=C(C=C(C(=C1)C)[N+](=O)[O-])O | C12H15NO3
solvent | methanol | 3 mL | CO | CH4O
catalyst | Pd/C | 16 mg | [Pd] | Pd
product | 5-amino-2-cyclopentyl-4-methylphenol | NC=1C(=CC(=C(C1)O)C1CCCC1)C | C12H17NO
